US06080870
Step C: (N-tert-butyl)-3-butyl-4-biphenylcarboxamide
To 500 mL Parr flask was added (N-tert-butyl)-3-(1-hydroxybutyl)-4-biphenylcarboxamide (3.50 g, 10.75 mmol), abs EtOH (125 mL) and 10% palladium on carbon (3.50 g). This mixture was hyrogenolyzed at 60 psig and ambient temperature for 48 h. The catalyst was removed by filtration on a celite pad and the solvent was removed in vacuo. This material was chromatographed on silica gel using 10% EtOAc in hexane as eluant to afford the title compound as a white crystalline solid.

reactant | (N-tert-butyl)-3-(1-hydroxybutyl)-4-biphenylcarboxamide | 10.75 mmol, 3.50 g | C(C)(C)(C)NC(=O)C1=C(C=C(C=C1)C1=CC=CC=C1)C(CCC)O | C21H27NO2
catalyst | palladium on carbon | 3.50 g | [Pd] | Pd
solvent | EtOH | 125 mL | CCO | C2H6O
product | (N-tert-butyl)-3-butyl-4-biphenylcarboxamide | C(C)(C)(C)NC(=O)C1=C(C=C(C=C1)C1=CC=CC=C1)CCCC | C21H27NO
